US07344702B2
Synthesis of 4-(4-bromomethylphenyl)butyl tert-butyldimethylsilyl ether
To a 50 ml round bottom flask is added 4-(4-methylphenyl)butyl tert-butyldimetylsilyl ether (0.25 g, 0.89 mmol), N-bromosuccinimide (0.158 g, 0.89 mmol), benzoyl peroxide (2.17 mg, 0.0089 mmol) and 10 ml carbon tetrachloride. This mixture is refluxed overnight after which it is cooled and filtered. The filtrate is concentrated and the resulting crude residue is purified by flash chromatography in ethyl acetate-hexanes to afford the product.

reactant | 4-(4-methylphenyl)butyl tert-butyldimetylsilyl ether | 0.89 mmol, 0.25 g | [Si](C)(C)(C(C)(C)C)OCCCCC1=CC=C(C=C1)C | C17H30OSi
reactant | N-bromosuccinimide | 0.89 mmol, 0.158 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.0089 mmol, 2.17 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(4-bromomethylphenyl)butyl tert-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)OCCCCC1=CC=C(C=C1)CBr | C17H29BrOSi
